US07875600B2
2-Amino-N-benzyl-6-(2-furyl)pyrimidine-4-carboxamide (Example 42)
A solution of 2-amino-6-(2-furyl)pyrimidine-4-carboxylic acid (103 mg, 0.5 mmol) in DMF (2 mL) was treated with benzylamine (59 mg, 0.55 mmol), EDCl (104 mg, 0.54 mmol) and 4-dimethylaminopyridine (66 mg, 0.54 mmol), stirred at room temperature for 17 h, poured into water (25 mL) and extracted with EtOAc (2×25 mL). The combined organic phase was washed with water (25 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; isopropyl ether:EtOAc, (100:0-0:100)] to give the title compound (52 mg, 40%) as an off-white solid.

reactant | 2-amino-6-(2-furyl)pyrimidine-4-carboxylic acid | 0.5 mmol, 103 mg | NC1=NC(=CC(=N1)C(=O)O)C=1OC=CC1 | C9H7N3O3
reactant | benzylamine | 0.55 mmol, 59 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | EDCl | 0.54 mmol, 104 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | 25 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.54 mmol, 66 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Amino-N-benzyl-6-(2-furyl)pyrimidine-4-carboxamide | 52 mg, 40% | NC1=NC(=CC(=N1)C(=O)NCC1=CC=CC=C1)C=1OC=CC1 | C16H14N4O2
